US04151294
2.43 g. of sodium hydride in added portionwise to a solution of 8.2 g. of 1-hexyne in 30 ml. of dry THF and then, under a stream of nitrogen, a solution of 21.4 g. of 4'-fluoro-4-acetylbiphenyl, preparable from 4-fluorobiphenyl and acetyl chloride in the presence of AlCl3, in 60 ml. of THF is added thereto. The reaction mixture contains sodium 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-olate. It is hydrolyzed with an aqueous 15% ammonium chloride solution and worked up as usual. There is obtained 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-ol; m.p. 62°.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-hexyne | C#CCCCC | C6H10
reactant | 4'-fluoro-4-acetylbiphenyl | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C14H11FO
reactant | 4-fluorobiphenyl | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sodium 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-olate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCCC)[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCCC)O | C20H21FO
